US07811595B2
Preparation of [(3,5-dihydroxy-pyridine-2-carbonyl)-amino]-acetic acid (29):
To a solution of [(3,5-dihydroxy-pyridine-2-carbonyl)-amino]-acetic acid tert-butyl ester, 28, (0.10 g, 0.37 mmol) in CH2Cl2 (4 mL) at room temperature is added trifluoroacetic acid (1 mL). The reaction is stirred for 16 hours at room temperature and then concentrated under reduced pressure. The solid that remains is collected by filtration, washed with Et2O to afford 0.070 g (89% yield) of the desired compound as a colorless solid. 1H NMR (250 MHz, DMSO-d6) δ ppm 10.86 (1H, br s), 9.00 (1H, t, J=6.1 Hz), 7.77 (1H, d, J=2.4 Hz), 6.69 (1H, d, J=2.4 Hz), 3.95 (1H, d, J=6.2 Hz). HPLC-MS: m/z 213 [M+H]+.

reactant | [(3,5-dihydroxy-pyridine-2-carbonyl)-amino]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CNC(=O)C1=NC=C(C=C1O)O)=O | C12H16N2O5
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | [(3,5-dihydroxy-pyridine-2-carbonyl)-amino]-acetic acid | 0.070 g, 89% yield | OC=1C(=NC=C(C1)O)C(=O)NCC(=O)O | C8H8N2O5
